TI block diagram PWM latch holds pulse after comparator recrossing
.include ucc28180.inc
Vcc vcc 0 15
Vvs vsense 0 3
Vvc vcomp 0 3
Vis isense 0 0
Vic icomp 0 PWL(0 .72 2u .72 2.001u 6 20u 6)
Xu vcc vsense isense icomp vcomp gate 0 UCC28180_FN
.options method=gear reltol=1e-5
.save v(gate)
.tran 1n 20u 0 1n uic
.control
set wr_singlescale
set wr_vecnames
set numdgt=17
run
wrdata pwm-hold.tsv v(gate)
quit
.endc
.end
